US07371869B2
To a stirred solution of 2-[(S)-2-[(R)-4-(4-methoxy-phenyl)-2,5-dioxo-imidazolidin-1-yl]-3-(4-nitro-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester (0.32 g, 0.59 mmol) in methanol (125 mL), tetrahydrofuran (25 mL) and N,N-dimethylformamide (3 mL) was added a solution of ammonium chloride (0.63 g, 11.8 mmol) in water (3 mL) followed by zinc dust (<10 μM particle size) (0.388 g, 5.94 mmol). After 15 minutes the reaction mixture was filitered through a pad of Celite® and washed through with methanol. The filtrate was concentrated in vacuo and the residue partitioned between dichloromethane and water. The organic solution was washed with saturated aqueous sodium bicarbonate, water, brine, dried over sodium sulfate and concentrated in vacuo to a yellow solid (0.35 g). Purification by chromatography using silica eluted with 90:10:6:5 chloroform/water/acetic acid/methanol followed by drying in vacuo gave 2-{(S)-3-(4-amino-phenyl)-2-[(R)-4-(4-methoxy-phenyl)-2,5-dioxo-imidazolidin-1-yl]-propionylamino}-thiazole-4-carboxylic acid methyl ester as a brown solid (66 mg, 22%).

reactant | 2-[(S)-2-[(R)-4-(4-methoxy-phenyl)-2,5-dioxo-imidazolidin-1-yl]-3-(4-nitro-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester | 0.59 mmol, 0.32 g | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=C(C=C1)[N+](=O)[O-])N1C(N[C@@H](C1=O)C1=CC=C(C=C1)OC)=O)=O | C24H21N5O8S
reactant | ammonium chloride | 11.8 mmol, 0.63 g | [Cl-].[NH4+]
solvent | methanol | 125 mL | CO | CH4O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | 3 mL | O | H2O
catalyst | zinc | 5.94 mmol, <10 μM, 0.388 g | [Zn] | Zn
product | 2-{(S)-3-(4-amino-phenyl)-2-[(R)-4-(4-methoxy-phenyl)-2,5-dioxo-imidazolidin-1-yl]-propionylamino}-thiazole-4-carboxylic acid methyl ester | 66 mg, 22% | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=C(C=C1)N)N1C(N[C@@H](C1=O)C1=CC=C(C=C1)OC)=O)=O | C24H23N5O6S
